US04024163
Triphenyl phosphine (13 g.) was dissolved in dry benzene (60 ml.) and methyl bromoacetate (8.3 g.) was added dropwise. The solution was heated at 70° C., for 2 days, and then cooled and filtered. The residue was washed with benzene and dried to give about 16 g. of (methoxycarbonyl methyl)triphenylphosphonium bromide. The phosphonium salt (10 g.) was dissolved in water (250 ml.) and 5% aqueous sodium hydroxide was added dropwise with stirring until the solution became alkaline to litmus. The resulting precipitate was filtered off, washed with water and dried. Crystallisation from ethyl acetate/petroleum spirit gave (methoxycarbonyl methylene) triphenyl phosphorane as a colourless solid in about 80% yield.

reactant | Triphenyl phosphine | 13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl bromoacetate | 8.3 g | BrCC(=O)OC | C3H5BrO2
reactant | (methoxycarbonyl methyl)triphenylphosphonium bromide | [Br-].COC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | phosphonium | 10 g | [PH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | water | 250 ml | O | H2O
product | (methoxycarbonyl methylene) triphenyl phosphorane | about 80% yield | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
